US06784137B2
Sodium borohydride (112 mg, 3 mmol) was slowly added to a solution of methyl 4-amino-3-chloro-6-(4-formylphenyl)pyridine-2-carboxylate (2.87 g, 9.87 mmol) in methanol/dichloromethane (1:1, 100 mL) cooled by an ice bath. After the addition was complete, the ice bath was removed and the reaction mixture was stirred for 15 minutes and then concentrated. The residue was dissolved in ethyl acetate/water and the organic phase was washed with brine, dried (MgSO4) and concentrated. The residue was purified by column chromatography over silica gel (40% ethyl acetate/hexane) to yield methyl 4-amino-3-chloro-6-(4-hydroxymethylphenyl)pyridine-2-carboxylate (2.5 g 8.54 mmol), mp 138-139° C.

reactant | Sodium borohydride | 3 mmol, 112 mg | [BH4-].[Na+]
reactant | methyl 4-amino-3-chloro-6-(4-formylphenyl)pyridine-2-carboxylate | 9.87 mmol, 2.87 g | NC1=C(C(=NC(=C1)C1=CC=C(C=C1)C=O)C(=O)OC)Cl | C14H11ClN2O3
solvent | methanol dichloromethane | 100 mL | CO.ClCCl
product | methyl 4-amino-3-chloro-6-(4-hydroxymethylphenyl)pyridine-2-carboxylate | 8.54 mmol, 2.5 g | NC1=C(C(=NC(=C1)C1=CC=C(C=C1)CO)C(=O)OC)Cl | C14H13ClN2O3
